US07939513B2
A suspension of (S)-pyrrolidine-2-carboxylic acid (5 g, 50 mmol), acetone (5.52 mL, 50 mmol) and 10% Pd/C (2.5 g) in methanol (100 mL) was stirred under hydrogen atmosphere for 6 to 12 hours. The reaction mixture was filtered on a pad of celite and the filtrate was concentrated. The residue obtained was filtered through a column of silica gel to afford (S)-1-isopropylpyrrolidine-2-carboxylic acid (8.0 g, 94%) as a colorless solid.

reactant | (S)-pyrrolidine-2-carboxylic acid | 50 mmol, 5 g | N1[C@@H](CCC1)C(=O)O | C5H9NO2
reactant | acetone | 50 mmol, 5.52 mL | CC(=O)C | C3H6O
solvent | methanol | 100 mL | CO | CH4O
catalyst | Pd/C | 2.5 g | [Pd] | Pd
product | (S)-1-isopropylpyrrolidine-2-carboxylic acid | 8.0 g, 94% | C(C)(C)N1[C@@H](CCC1)C(=O)O | C8H15NO2
